US04016148
In a manner analogous to Example 1 b), but with hydrogenation in the presence of 2-N hydrochloric acid, starting from [[N2,N6 -bis(benzyloxycarbonyl)-L-lysyl]amino]-methylphosphonic acid there was obtained (L-lysylamino)-methylphosphonic acid dihydrochloride of melting point 212°-217° C (decomposition); [α]D20 = +22.35° (c = 1% in water).

reactant | hydrochloric acid | Cl | ClH
reactant | [[N2,N6 -bis(benzyloxycarbonyl)-L-lysyl]amino]-methylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)NOP(O)(=O)C | C23H30N3O8P
product | (L-lysylamino)-methylphosphonic acid dihydrochloride | Cl.Cl.N[C@@H](CCCCN)C(=O)NOP(O)(=O)C | InChI=1S/C7H18N3O4P.2ClH/c1-15(12,13)14-10-7(11)6(9)4-2-3-5-8;;/h6H,2-5,8-9H2,1H3,(H,10,11)(H,12,13);2*1H/t6-;;/m0../s1
